US08685975B2
5-Bromo-2-(difluoromethoxy)-1,3-dimethoxybenzene was coupled with 2-furylboronic acid following the procedure for the synthesis of Example 21. Purification by chromatography (0-30% EtOAc-hexanes) provided 2-(4-(difluoromethoxy)-3,5-dimethoxyphenyl)furan as a white crystalline material (0.555 g, 67% yield).

reactant | 5-Bromo-2-(difluoromethoxy)-1,3-dimethoxybenzene | BrC=1C=C(C(=C(C1)OC)OC(F)F)OC | C9H9BrF2O3
reactant | 2-furylboronic acid | O1C(=CC=C1)B(O)O | C4H5BO3
product | 2-(4-(difluoromethoxy)-3,5-dimethoxyphenyl)furan | FC(OC1=C(C=C(C=C1OC)C=1OC=CC1)OC)F | C13H12F2O4
